* source PRE-AMP-DISCRET
Q_Q2         N14882 N14843 N14925 BC860C 
Q_Q4         N14886 N15626 N14921 BC860C 
R_R1         N15026 N14882  1.2k TC=0,0 
R_R2         N15026 N14886  1.2k TC=0,0 
R_R3         0 N14843  22k TC=0,0 
C_C1         N14836 N14843  3.3u  TC=0,0 
V_V1         0 N15026 15Vdc
V_V2         N15457 0 15Vdc
R_R4         N14925 N14933  100 TC=0,0 
R_R5         N14921 N14933  100 TC=0,0 
Q_Q6         N14933 N15417 N15453 BC860C 
R_R6         N15453 N15457  220 TC=0,0 
D_D1         N15457 N147011 D1N4148_1 
D_D2         N147011 N15417 D1N4148_1 
R_R7         0 N15417  10k TC=0,0 
V_V3         N14836 0  AC 1V
+SIN 0V 0.5V 1kHz 0 0 0
Q_Q7         0 N14882 N15214 BC850C 
Q_Q8         N15258 N15214 N22849 BC850C 
R_R8         N15026 N15214  2.2k TC=0,0 
C_C2         N14882 N15258  470p  TC=0,0 
Q_Q9         N15258 N24264 N15839 BC860C 
Q_Q10         N15369 N24749 N15835 BC860C 
Q_Q11         N15026 N15258 N15369 BC860C 
R_R9         N15637 N15626  22k TC=0,0 
C_C3         0 N15637  100u  TC=0,0 
R_R10         N15626 N15369  22k TC=0,0 
R_R11         N15835 N15457  100 TC=0,0 
R_R12         N15839 N15457  39 TC=0,0 
C_C4         N15626 N15369  4.7p  TC=0,0 
R_R13         N15026 N22849  39 TC=0,0 
R_R15         N23087 N15457  68 TC=0,0 
R_R14         N23175 N15457  68 TC=0,0 
Q_Q12         N23573 N23277 N23175 BC860C 
Q_Q13         N23277 N23277 N23087 BC860C 
Q_Q14         N23277 N15626 N23465 BC850C 
Q_Q15         N23573 N14843 N23449 BC850C 
R_R16         N23551 N23449  100 TC=0,0 
R_R17         N23551 N23465  100 TC=0,0 
D_D4         N23956 N15026 D1N4148_1 
D_D3         N23947 N23956 D1N4148_1 
R_R18         N15026 N24034  220 TC=0,0 
Q_Q16         N23551 N23947 N24034 BC850C 
R_R19         N23947 0  10k TC=0,0 
Q_Q17         0 N23573 N24264 BC860C 
R_R20         N24264 N15457  2.2k TC=0,0 
C_C5         N23573 N15258  470p  TC=0,0 
D_D6         N24954 N24749 D1N4148_1 
R_R21         0 N24749  10k TC=0,0 
D_D5         N15457 N24954 D1N4148_1 
R_R22         N15369 N25617  47 TC=0,0 
R_R23         0 N25617  47k TC=0,0 
